US06927220B2
Compound 1: [6-(6-Amino-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrido[3,4-d]pyrimidin-4-yl]-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine.
A solution of 2.71 g (7.83 mmol) of (6-fluoro-pyrido[3,4-d]pyrimidin-4-yl)-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine and 31.0 g (156.5 mmol) of (3-aza-bicyclo[3.1.0]hex-6-yl)-carbamic acid tert-butyl ester in 20 mL of ethanol in a sealed tube was heated at 105° C. for 24 hours. The mixture was cooled to room temperature and diluted with chloroform. The organics were washed sequentially with 3×150 mL saturated sodium bicarbonate and 1×50 mL of saturated sodium chloride, dried over sodium sulfate and evaporated. Chromatography over silica gel, eluting with 5% methanol/chloroform afforded 1.79 g (43%) of the title compound. 1H NMR (CDCl3): δ 8.93 (s, 1), 8.53 (s, 1), 8.33 (m, 2), 7.60 (m, 3), 7.21 (m, 2), 6.96 (d, 1), 6.24 (m, 1), 4.83 (m, 1), 3.81 (m, 2), 3.51 (m, 2), 3.47 (m, 1), 2.36 (m, 1), 2.26 (s, 3), 1.88 (m, 1).

reactant | (6-fluoro-pyrido[3,4-d]pyrimidin-4-yl)-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine | 7.83 mmol, 2.71 g | FC1=CC2=C(N=CN=C2NC2=CC(=C(C=C2)OC=2C=NC=CC2)C)C=N1 | C19H14FN5O
reactant | (3-aza-bicyclo[3.1.0]hex-6-yl)-carbamic acid tert-butyl ester | 156.5 mmol, 31.0 g | C(C)(C)(C)OC(NC1C2CNCC12)=O | C10H18N2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [6-(6-Amino-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrido[3,4-d]pyrimidin-4-yl]-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine | 1.79 g, 43% | NC1C2CN(CC12)C1=CC2=C(N=CN=C2NC2=CC(=C(C=C2)OC=2C=NC=CC2)C)C=N1 | C24H23N7O
